US09290506B2
Method B. A solution of (1R)-(4-(1-(1-cyclopentyl-3-oxopropyl)-1H-pyrazol-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)methyl pivalate ((R)-37, 169 mg, 0.399 mmol) in tetrahydrofuran (THF, 1.2 mL, 15 mmol) at room temperature was added a 14.3 M solution of ammonium hydroxide (NH4OH) in water (1.2 mL), followed by iodine (I2, 112 mg, 0.439 mmol, 1.1 equiv). The resulting reaction mixture was stirred at room temperature for 25 min. When LCMS showed that the reaction was deemed complete, the reaction mixture was quenched with 10% aqueous Na2S2O3 (10 mL) before being extracted with EtOAc (2×15 mL). The combined organic layers were washed with brine, dried over magnesium sulfate (MgSO4), filtered and concentrated under reduced pressure. The residue was purified by Combiflash (SiO2) with 0-60% EtOAc/hexane gradient elution to afford (R)-(4-(1-(2-cyano-1-cyclopentylethyl)-1H-pyrazol-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)methyl pivalate ((R)-12, 145.6 mg, 167.8 mg theoretical, 86.8% yield) as a colorless foam.

reactant | (1R)-(4-(1-(1-cyclopentyl-3-oxopropyl)-1H-pyrazol-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)methyl pivalate | 0.399 mmol, 169 mg | C(C(C)(C)C)(=O)OCN1C=CC2=C1N=CN=C2C=2C=NN(C2)[C@H](CC=O)C2CCCC2 | C23H29N5O3
reactant | tetrahydrofuran | 15 mmol, 1.2 mL | O1CCCC1 | C4H8O
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | iodine | 0.439 mmol, 112 mg, 1.1 equiv | II | I2
solvent | water | 1.2 mL | O | H2O
product | (R)-(4-(1-(2-cyano-1-cyclopentylethyl)-1H-pyrazol-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)methyl pivalate | 145.6 mg, 86.8% yield | C(C(C)(C)C)(=O)OCN1C=CC2=C1N=CN=C2C=2C=NN(C2)[C@H](CC#N)C2CCCC2 | C23H28N6O2
